US03991070
U.S. patent application Ser. No. 391,647, filed Aug. 27, 1973, now U.S. Pat. No. 3,891,666, describes a process for reacting a mixture of 5-chloro-2-(3-bromo-5-methyl-4H-1,2,4-triazol-4-yl)benzophenone with hydrazine or its mineral acid salt and a base in a lower alkanol, e.g., ethanol at 70°-120° C. to give 8-chloro-1-methyl-6-phenyl-4H-s-triazolo[4,3-a][1,3,4]benzotriazepine, indicating that hydrazine reacts with halogen on the triazole ring of triazolylbenzophenone compounds.

reactant | 5-chloro-2-(3-bromo-5-methyl-4H-1,2,4-triazol-4-yl)benzophenone | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1C)Br | C16H11BrClN3O
reactant | hydrazine | NN | H4N2
solvent | ethanol | C(C)O | C2H6O
product | 8-chloro-1-methyl-6-phenyl-4H-s-triazolo[4,3-a][1,3,4]benzotriazepine | ClC=1C=CC2=C(C(=NNC=3N2C(=NN3)C)C3=CC=CC=C3)C1 | C16H12ClN5
